US09126970B2
Step b): tert-Butyl 3-(2-methoxycarbonylphenylamino)carbazole-9-carboxylate
50.0 g (144 mmol) of the BOC-protected bromocarbazole are dissolved in 1000 ml of dry toluene with 30.7 ml (238 mmol) of methyl anthranilate and degassed. 21.6 ml (21.6 mmol/1 M in toluene) of tris-tert-butylphosphine, degassed 2.6 g (11.5 mmol) of Pd(OAc)2 and 81.3 g (249 mmol) of Cs2CO3 are added, and the reaction mixture is stirred under reflux for 2.5 h. The cooled reaction solution is filtered through silica gel, and the crude product is crystallised from MeOH/heptane (1:1), giving 45.5 g (76%) of the product as a white solid.

reactant | methyl anthranilate | 238 mmol, 30.7 ml | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | tris-tert-butylphosphine | 21.6 mmol, 1 M, 21.6 ml | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | Cs2CO3 | 249 mmol, 81.3 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 11.5 mmol, 2.6 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-Butyl 3-(2-methoxycarbonylphenylamino)carbazole-9-carboxylate | 45.5 g, 76% | COC(=O)C1=C(C=CC=C1)NC=1C=CC=2N(C3=CC=CC=C3C2C1)C(=O)OC(C)(C)C | C25H24N2O4
